US07220856B2
Preparation of 4-(2-Amino-7-chloro-4-quinolinyl)-N-[(3S)-hexahydro-2-oxo-1H-azepin-3-yl]-1-piperazinecarboxamide
As described for example 78, (s)-3-amino-azepan-2-one, 4-nitrophenyl chloroformate, diisopropyl(ethyl)amine, and 7-chloro-4-(1-piperazinyl)-2-quinolinamine are reacted to afford the product as a light yellow solid. LC-MS: 417 (M++1). 1H NMR (CD3OD) δ 7.80 (d, 1H), 7.45 (s, 1H), 7.15 (d, 1H), 6.35 (s, 1H), 4.45 (d, 1H), 3.68 (m, 4H), 3.25 (m, 2H), 3.10 (m, 4H), 2.00 (m, 2H), 1.80 (m, 2H), 1.60 (m, 1H), 1.38 (m, 1H).

reactant | (s)-3-amino-azepan-2-one | N[C@@H]1C(NCCCC1)=O | C6H12N2O
reactant | 4-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropyl(ethyl)amine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
product | 4-(2-Amino-7-chloro-4-quinolinyl)-N-[(3S)-hexahydro-2-oxo-1H-azepin-3-yl]-1-piperazinecarboxamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)N[C@@H]1C(NCCCC1)=O)Cl | C20H25ClN6O2
